******************************************************************************* 
*                                                                             * 
* Library:      SG13G2_dev                                                    * 
* Technologies: SG13G2                                                        *
* Component:    Spectre model file for Spectre 18                             *
*                                                                             *
* Simulator:    Spectre 20.1                                                  *
* Model:        PSP 103.6                                                     *
* Revision:     200310                                                        * 
*                                                                             * 
******************************************************************************* 
*                                                                             * 
* Copyright 2023 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************
*******************************************************************************   
*                                                                             *  
*                                                                             *  
*              C O M M O N    SG 13  M O S     M O D E L S                    *  
*                                                                             *  
*                                                                             *  
*******************************************************************************   
*  
* NOTE: do not include this file directly in the netlist, use models.typ, .bcs or .wcs only  
*   
*  
*  
*******************************************************************************   
* variable C section  
*******************************************************************************   
  
  
  
*******************************************************************************   
* MOS transistor section  
*******************************************************************************   
  
  
  
* MOS-Subckt with D/S-overlap possibility  
*  
*       z1              z2            z1  
*   ----------------------------------------  
*   |          |   |         |   |         |  
*   |    S     | G |   D     | G |    S    |  w/ng, >=0.15u   
*   |          |   |         |   |         |  
*   ----------------------------------------  
*   
*  z1=0.34u, z2=0.38u           
*  
* Parameters as,ad,ps,pd are calculated automatically, if <= 0  
*  
*  

* SEMIMOD TODO:
* - DTA parameter not working?
  
.subckt sg13_lv_nmos d g s b  
+ w=0.35u l=0.34u ng=1 mfact=1 as=0 ad=0 pd=0 ps=0 trise=0 z1=0.34e-6 z2=0.38e-6 wmin=0.15e-6 
+ rfmode=0 pre_layout=1   
* if as = 0, calculate value, else take it  
* if as is given externally, no adjustment for ng is done! -> must be done in the extractor  
* if ng>1 and as=0 (in schematic) recalculate!  
  
* --- Warning limits if design parameters exceed the values of the measured   
*     test structures from which the model was derived   
*LowL  paramtest warnif = (l<0.129u)  message = "Instance parameter 'l' is too small. Validated range for length is [0.13um, 10um]."  
*HigL  paramtest warnif = (l>10.1u)   message = "Instance parameter 'l' is too large. Validated range for length is [0.13um, 10um]."  
*if (rfmode) {  
*   LowW  paramtest warnif = (w/ng<0.99u)  message = "Instance parameter 'w/ng' is too small. Validated range for width per finger and rfmode=1 is [1um, 10um]."  
*   HigW  paramtest warnif = (w/ng>10.1u)  message = "Instance parameter 'w/ng' is too large. Validated range for width per finger and rfmode=1 is [1um, 10um]."  
*} else {  
*   LowW  paramtest warnif = (w/ng<0.149u) message = "Instance parameter 'w/ng' is too small. Validated range for 'w' is [0.15um, 10um]."  
*   HigW  paramtest warnif = (w/ng>10.1u)  message = "Instance parameter 'w/ng' is too large. Validated range for 'w' is [0.15um, 10um]."  
*}  
  
* include the model parameters
.include sg13g2_moslv_parm.lib

.if (as <= 1e-50)  
    .if (floor(floor(ng/2+0.501)*2+0.001) != ng)		  
        Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp w='w/ng' l=l mult=ng    
          + as='max(w/ng,wmin)*(z1+((ng-1)/2)*z2)/ng'   
          + ad='max(w/ng,wmin)*(z1+((ng-1)/2)*z2)/ng'  
          + ps='2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2)/ng'  
          + pd='2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2)/ng'  
          + dta=trise  
          + ngcon=2   
    .else
        Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp w='w/ng' l=l mult=ng    
          + as='max(w/ng,wmin)*(2*z1+max(0,(ng-2)/2)*z2)/ng'  
          + ad='max(w/ng,wmin)*z2/2'  
          + ps='2*(max(w/ng,wmin)*(2+max(ng-2,0)/2)+2*z1+max(ng-2,0)/2*z2)/ng'  
          + pd='max(w/ng,wmin)+z2'  
          + dta=trise  
          + ngcon=2   
    .endif
.else
    Nsg13_lv_nmos d g s b sg13g2_lv_nmos_psp w='w/ng' l=l as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' mult=ng      
      + dta=trise  
      + ngcon=2   
.endif
.ends
  
.subckt sg13_lv_pmos d g s b   
+ w=0.35u l=0.28u ng=1 mfact=1 as=0 ad=0 pd=0 ps=0 trise=0 z1=0.34e-6 z2=0.38e-6 wmin=0.15e-6 
+ rfmode=0  pre_layout=1  
  
* --- Warning limits if design parameters exceed the values of the measured   
*     test structures from which the model was derived   
*LowL  paramtest warnif = (l<0.129u)  message = "Instance parameter 'l' is too small. Validated range for length is [0.13um, 10um]."  
*HigL  paramtest warnif = (l>10.1u)   message = "Instance parameter 'l' is too large. Validated range for length is [0.13um, 10um]."  
*if (rfmode) {  
*   LowW  paramtest warnif = (w/ng<4.9u)   message = "Instance parameter 'w/ng' is too small. Validated range for width per finger and rfmode=1 is [2.5um, 10um]."  
*   HigW  paramtest warnif = (w/ng>10.1u)  message = "Instance parameter 'w/ng' is too large. Validated range for width per finger and rfmode=1 is [2.5um, 10um]."  
*} else {  
*   LowW  paramtest warnif = (w/ng<0.149u) message = "Instance parameter 'w/ng' is too small. Validated range for 'w' is [0.15um, 10um]."  
*   HigW  paramtest warnif = (w/ng>10.1u)  message = "Instance parameter 'w/ng' is too large. Validated range for 'w' is [0.15um, 10um]."  
*}  

.include sg13g2_moslv_parm.lib
.if (as <= 1e-50)  
    .if (floor(floor(ng/2+0.501)*2+0.001) != ng)		  
        Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp w='w/ng' l=l mult=ng   
          + as='max(w/ng,wmin)*(z1+((ng-1)/2)*z2)/ng'   
          + ad='max(w/ng,wmin)*(z1+((ng-1)/2)*z2)/ng'  
          + ps='2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2)/ng'  
          + pd='2*(max(w/ng,wmin)*((ng-1)/2+1)+z1+(ng-1)/2*z2)/ng'  
          + dta=trise  
          + ngcon=2   
    .else
        Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp w='w/ng' l=l mult=ng   
          + as='max(w/ng,wmin)*(2*z1+max(0,(ng-2)/2)*z2)/ng'  
          + ad='max(w/ng,wmin)*z2/2'  
          + ps='2*(max(w/ng,wmin)*(2+max(ng-2,0)/2)+2*z1+max(ng-2,0)/2*z2)/ng'  
          + pd='max(w/ng,wmin)+z2'  
          + dta=trise  
          + ngcon=2   
    .endif
.else
    Nsg13_lv_pmos d g s b sg13g2_lv_pmos_psp w='w/ng' l=l as='as/ng' ad='ad/ng' pd='pd/ng' ps='ps/ng' mult=ng   
      + dta=trise  
      + ngcon=2   
.endif
.ends
  
